US07157488B2
2-(2-(5-Benzoylamino-1H-indol-3-yl)ethyl)isoindole-1,3-dione
Combine 2-(2-(5-amino-1H-indol-3-yl)ethyl)isoindole-1,3-dione (0.5 g, 1.64 mmol) and 4-dimethylaminopyridine (0.3 g, 2.5 mmol) and dissolve in 30 mL dichloromethane and cool to 0° C. Treat the reaction mixture with benzoyl chloride (276 mg, 1.96 mmol) and stir overnight during which the temperature was allowed to warm to room temperature. Concentrate to residue and chromatograph the residue on silica gel eluting with 0.5% MeOH in CHCl3 to give the title compound as a solid: ISMS 410 (M+1); 1H NMR (CDCl3) 7.86–7.85 (m, 2H), 7.79 (s, 1H), 7.72–7.68 (m, 2H), 7.60–7.57 (m, 2H), 7.46–7.42 (m, 1H), 7.4–7.36 (m, 3H), 7.13–7.11 (d, 1H), 6.89–6.88 (m, 1H), 3.88–3.84 (t, 2H), 3.00–2.97 (t, 2H).

reactant | 2-(2-(5-amino-1H-indol-3-yl)ethyl)isoindole-1,3-dione | 1.64 mmol, 0.5 g | NC=1C=C2C(=CNC2=CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C18H15N3O2
reactant | benzoyl chloride | 1.96 mmol, 276 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
catalyst | 4-dimethylaminopyridine | 2.5 mmol, 0.3 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-(2-(5-Benzoylamino-1H-indol-3-yl)ethyl)isoindole-1,3-dione | C(C1=CC=CC=C1)(=O)NC=1C=C2C(=CNC2=CC1)CCN1C(C2=CC=CC=C2C1=O)=O | C25H19N3O3
